US08497265B2
Step 1. Tert-Butyl 4-((3-(Tetrahydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Piperidine-1-Carboxylate
A mixture of tert-butyl 4-((3-(3,6-dihydro-2H-pyran-4-yl)pyridin-2-yl)oxy)piperidine-1-carboxylate (see PREPARATION P28.1; 3.5 g, 9.6 mmol) and wet Pd—C (50%, 1.0 g) in MeOH (100 mL) was stirred under H2 (40 psi) at 30° C. overnight then the reaction mixture was filtered through CELITE® and washed with MeOH. The filtrate was concentrated to give of the desired compound (3.2 g, 8.1 mmol, yield 91%).

reactant | tert-butyl 4-((3-(3,6-dihydro-2H-pyran-4-yl)pyridin-2-yl)oxy)piperidine-1-carboxylate | 9.6 mmol, 3.5 g | O1CCC(=CC1)C=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H28N2O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd—C | 1.0 g | [Pd] | Pd
product | Tert-Butyl 4-((3-(Tetrahydro-2H-Pyran-4-yl)Pyridin-2-yl)Oxy)Piperidine-1-Carboxylate | 8.1 mmol, 3.2 g, yield 91% | O1CCC(CC1)C=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O4
